US08222286B2
Next, (S)-2-((S)-2-(3′-chloro-biphenyl-4-yl)-1-{[1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-carbamoyl}-ethylamino)-propionic acid ethyl ester (260 mg, 0.451 mmol) was dissolved in TFA (5 mL) and DCM (5 mL) and stirred at 50° C. for 12 hours and at 75° C. for 5 hours. The reaction mixture was concentrated under reduced pressure to give (S)-2-{(S)-2-(3′-chloro-biphenyl-4-yl)-1-[methyl-(1H-tetrazol-5-yl)-carbamoyl]-ethylamino}-propionic acid ethyl ester (120 mg). MS: m/z (MH+) 457; HPLC retention time 0.95 min (HPLC condition C).

reactant | (S)-2-((S)-2-(3′-chloro-biphenyl-4-yl)-1-{[1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-carbamoyl}-ethylamino)-propionic acid ethyl ester | 0.451 mmol, 260 mg | C(C)OC([C@H](C)N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)C(N(C)C1=NN=NN1CC1=CC=C(C=C1)OC)=O)=O | C30H33ClN6O4
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-2-{(S)-2-(3′-chloro-biphenyl-4-yl)-1-[methyl-(1H-tetrazol-5-yl)-carbamoyl]-ethylamino}-propionic acid ethyl ester | 120 mg | C(C)OC([C@H](C)N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)C(N(C1=NN=NN1)C)=O)=O | C22H25ClN6O3
